US05760259
C. 9-Phenoxynonanoic acid
A solution of ethyl 2-ethoxycarbonyl-9-phenoxynonanoate (1.84 g, 5.3 mmol) in 20% NaOH (20 mL) was refluxed for 10 h. The solution was acidified with HCl(pH=2) and extracted with ethyl acetate (3×50 mL). The organic phase was washed with water (2×30 mL), and brine (30 mL), and dried over Na2SO4. After removal of the solvent in vacuo, the residue was heated on an oil bath at 180°-200° C. for 10 min. The crude product was distilled (Kugelrohr) followed by crystallization (hexane) to give the product (1.14 g, 85%), mp 66.5°-67.5° C. (lit.3 68°-69° C.). IR: 3450-2550, 1720 cm-1 ; 1H-NMR: 1.26-1.39 (m, 8H), 1.61 (q, 2H), 1.75 (q, 2H), 2.34 (t, 2H), 3.93 (t, 2H), 6.83-6.96 (m, 3H), 7.28 (t, 2H), 10.8 (bs, 1H).

reactant | ethyl 2-ethoxycarbonyl-9-phenoxynonanoate | 5.3 mmol, 1.84 g | C(C)OC(=O)C(C(=O)OCC)CCCCCCCOC1=CC=CC=C1 | C20H30O5
solvent | NaOH | 20 mL | [OH-].[Na+]
product | 9-Phenoxynonanoic acid | 1.14 g, 85% | O(C1=CC=CC=C1)CCCCCCCCC(=O)O | C15H22O3
